US09233098B2
2. Preparation of ethyl 2-[1-[4-(2,4-difluorobenzamido)benzyl]-6-fluoro-1H-indazol-3-yl]acetate
The crude ethyl 2-[1-(4-aminobenzyl)-6-fluoro-1H-indazol-3-yl]acetate (about 1.0 mmol) obtained in the last step and triethylamine (0.5 mL) were dissolved in dichloromethane (15 mL), and in an ice bath dichloromethane solution (10 mL) of 2,4-difluorobenzoyl chloride (177 mg, 1.0 mmol) was added dropwise slowly. Upon completion of the dropwise addition, it was reacted at room temperature for 16 hours. An aqueous solution of sodium bicarbonate was added to quench, and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduce pressure, chromatographed on a silica gel column (petroleum ether:ethyl acetate=2:1) to obtain a white solid 213 mg, at a total yield over two steps of reactions of 45.6%.

reactant | ethyl 2-[1-(4-aminobenzyl)-6-fluoro-1H-indazol-3-yl]acetate | about 1.0 mmol | NC1=CC=C(CN2N=C(C3=CC=C(C=C23)F)CC(=O)OCC)C=C1 | C18H18FN3O2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluorobenzoyl chloride | 1.0 mmol, 177 mg | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 2-[1-[4-(2,4-difluorobenzamido)benzyl]-6-fluoro-1H-indazol-3-yl]acetate | 213 mg | FC1=C(C(=O)NC2=CC=C(CN3N=C(C4=CC=C(C=C34)F)CC(=O)OCC)C=C2)C=CC(=C1)F | C25H20F3N3O3
